Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
BRBPR, hyperkalemia
 
Major Surgical or Invasive Procedure:
hemodialysis

 
History of Present Illness:
___ is a ___ M with h/o ESRD on Mo/Th HD and HTN 
who presents with BRBPR after abdominal cramping night before 
admission, found to have HTN and hyperkalemia and admitted to 
ICU for urgent HD.
.
Patient was discharged from ___ on ___ for uremia after 
missing HD. Patient was in usual state of health and due for HD 
today, however he developed some mild abd cramping last night.  
This AM he had 1 bloody BM with BRBPR and brown/dark brown 
stool.  Patient had no abd pain, malaise, fatigue, dizziness, 
light-headedness.
.
In the ED, initial vitals:  98.4 89 ___ ra, found to 
have K of 6.8, given insulin, dextrose, calcium empirically.  GI 
was consulted and he was given pantoprazole 40mg IV x 1 for 
possible LGIB.  Patient was hypertensive and transitioned to the 
ICU.
. 
On transfer, vitals were:  98.0 67 178/86 17 100% RA 
.
On arrival to the MICU, patient was without symptoms. He was 
hypertensive to 200s and his home medications were started.
.
 
Past Medical History:
- ESRD ___ HTN, on Mo/Th HD for ___ year, has L AF fistula
- HTN
- Hyperlipidemia
- H/O EtOH abuse (sober ___ year)
 

 
Social History:
___
Family History:
non-contributory
 

 
Physical Exam:
ADMISSION VITALS
Vitals- T97.8 BP 181/92 P 94 RR16 O2 91RA 
General- middle aged male, appeared stated age, lying 
comfortably, thirsty
HEENT- NCAT, orpharynx clear, no LAD 
Neck- no JVD
CV-  RRR, holosystolic murmur at RUSB
Lungs-  CTA ___
Abdomen-  soft, nt, nd, no organomegaly
Ext-  no CCE, no mottling of skin, mild diaphoresis
Neuro-no focal deficits, moves all 4 extremities purposefully 
and without incident, no facial droop
Rectal: brown stool, no hemmorhoids appreciated, small flecks of 
gross blood.

DISCHARGE 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, moist mucous membranes, oropharynx 
clear  
Neck: supple, JVP not elevated
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, systolic murmur
Abdomen: soft, non-tender, non-distended, bowel sounds present
Ext: left wrist with fistula with notable palpable thrill, Warm, 
well perfused, 2+ pulses, no clubbing, cyanosis or edema  
Neuro: CNII-XII grossly intact
Lines: R arm PIV c/d/i  

 
Pertinent Results:
Admission Labs:
___ 09:40AM BLOOD WBC-9.1# RBC-3.84* Hgb-10.1* Hct-33.0* 
MCV-86 MCH-26.4* MCHC-30.6* RDW-16.3* Plt ___
___ 09:40AM BLOOD Glucose-96 UreaN-102* Creat-12.3*# Na-139 
K-6.8* Cl-96 HCO3-19* AnGap-31*
___ 09:40AM BLOOD Calcium-8.5 Phos-7.0* Mg-3.2*
.
Repeat labs:
___ 08:08PM BLOOD WBC-10.1 RBC-3.73* Hgb-10.2* Hct-32.2* 
MCV-86 MCH-27.3 MCHC-31.6 RDW-16.3* Plt ___
___ 08:08PM BLOOD Glucose-120* UreaN-32* Creat-5.8*# Na-141 
K-4.5 Cl-93* HCO3-30 AnGap-23*
___ 08:08PM BLOOD Calcium-8.9 Phos-3.8# Mg-2.1
___ 05:18AM BLOOD WBC-6.2 RBC-3.45* Hgb-9.3* Hct-30.1* 
MCV-87 MCH-26.9* MCHC-30.8* RDW-16.5* Plt ___
___ 12:34PM BLOOD Hct-30.1*
___ 08:00AM BLOOD WBC-6.7 RBC-3.36* Hgb-8.8* Hct-29.0* 
MCV-86 MCH-26.3* MCHC-30.5* RDW-16.7* Plt ___
 
Brief Hospital Course:
___ is a ___ M with h/o ESRD on Mo/Th HD and HTN 
who presents with lower GI bleeding with hyperkalemia on labs 
and admitted to ICU for urgent HD. 
.
# Hyperkalemia: Potassium 6.8 with hyperacute T waves on 
admission. Similar presentation on admission ___ after missing 
hemodialysis session. Received insulin, dextrose, calcium 
gluconate in the ED. Improved after urgent HD while in the ICU.
.
# BRBPR: Patient presented with BRBPR with bowel movement after 
episode of abdominal cramping. No evidence of ongoing bleed: 
hemodynamically stable, hematocrit stable. GI evaluated, imaging 
deferred at this time. Ddx includes gastroenteritis, stool 
studies were sent and were pending.  Patient did not have any 
subsequent bloody bowel movements, and GI recommended that the 
patient receive an outpatient colonoscopy.
.
# ESRD on HD: Patient was followed by Nephrology/Dialysis during 
admission.  He should follow up with his nephrologist as an 
outpatient.  Specifically, given his frequency of admission for 
hyperkalemia, he should consider increasing the frequency of his 
HD sessions to 3x/week to prevent such occurrences.
.
# Hypertension: systolic BPs to the 200s on admission to the ICU 
in the setting of missing home BP meds. Restarted on home 
metoprolol, nifedipine, torsemide with good improvement in BP.
.
# POOR MEDICAL COMPLIANCE: Pt has poor insight into his medical 
problems and per his home nurse practitioner, has missed 
multiple dialysis sessions over the past year. He currently 
resides at an assisted living facility but probably needs higher 
level of care (e.g. SNF). Social work and case management were 
involved and counseled patient about this in the past, but he is 
competent to make his own decisions and has refused SNF in the 
past. 
.
TRANSITIONAL ISSUES:
**Please schedule a colonoscopy for patient within the next 
month.
**Please consider retitration of antihypertensives in 
coordination with nephrology.
**F/u with nephrology regarding frequent hospitalizations for 
uremia, consider increasing frequency of HD sessions
.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain or Fever 
2. Bisacodyl ___AILY:PRN constipation 
3. Calcium Acetate 1334 mg PO TID W/MEALS 
4. Calcium Carbonate 1000 mg PO QID:PRN Dyspepsia 
5. Cinacalcet 30 mg PO DAILY 
6. Famotidine 20 mg PO DAILY 
7. Metoprolol Succinate XL 150 mg PO DAILY 
8. Nephrocaps 1 CAP PO DAILY 
9. NIFEdipine CR 30 mg PO DAILY 
10. Ondansetron 4 mg PO Q8H:PRN Nausea 
11. Torsemide 100 mg PO DAILY 
12. Epoetin Alfa 10,000 units SC PER HD 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain or Fever 
2. Calcium Acetate 1334 mg PO TID W/MEALS 
3. Calcium Carbonate 1000 mg PO QID:PRN Dyspepsia 
4. Cinacalcet 30 mg PO DAILY 
5. Metoprolol Succinate XL 150 mg PO DAILY 
6. Nephrocaps 1 CAP PO DAILY 
7. NIFEdipine CR 30 mg PO DAILY 
8. Ondansetron 4 mg PO Q8H:PRN Nausea 
9. Torsemide 100 mg PO DAILY 
10. Bisacodyl ___AILY:PRN constipation 
11. Epoetin Alfa 10,000 units SC PER HD 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Hyperkalemia, lower GI bleed
Secondary: ESRD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You were admitted to the hospital with rectal 
bleeding, and were found to have a very high potassium level due 
to missing your dialysis session. You were given urgent 
hemodialysis. Your blood counts were stable, and you were seen 
by the GI doctors who recommended ___ get a colonoscopy as an 
outpatient. Please ask your primary care doctor to set up a 
colonoscopy visit for you. This is very important. 

You should go to your hemodialysis center tomorrow for HD. 

Best of luck with your recovery. 

Your blood pressures were very high when you came in to the 
hospital. Please take all of your high blood pressure 
medications.

It is very important that you get regular dialysis and avoid 
missing sessions.
 
Followup Instructions:
___